US06534445B1
4-(2-Bromomethyl-6-trifluoromethylpyridine-3-carbonyl)-5-chloro-2,2,6,6-tetramethylcyclohex-4-ene-1,3-dione (Compound A1029-B1105)
0.39 g (1 mmol) of 5-chloro-2,2,6,6-tetramethyl-4-(2-methyl-6-trifluoromethylpyridine-3-carbonyl)cyclohex-4-ene-1,3-dione and 0.20 g (1.1 mmol) of N-bromsuccinimide are refluxed in the presence of a catalytic amount of dibenzoyl peroxide in 10 ml of carbon tetrachloride. After the reaction has subsided, the resulting succinimide is removed by filtration and the crude product is purified by column chromatography (mobile phase: ethyl acetatelhexane 1:4). This gives pure 4-(2-bromomethyl-6-trifluoromethylpyridine-3-carbonyl)-5-chloro-2,2,6,6-tetramethylcyclohex-4-ene-1,3-dione of melting point 94.5-95° C.

reactant | 5-chloro-2,2,6,6-tetramethyl-4-(2-methyl-6-trifluoromethylpyridine-3-carbonyl)cyclohex-4-ene-1,3-dione | 1 mmol, 0.39 g | ClC1=C(C(C(C(C1(C)C)=O)(C)C)=O)C(=O)C=1C(=NC(=CC1)C(F)(F)F)C | C18H17ClF3NO3
reactant | N-bromsuccinimide | 1.1 mmol, 0.20 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-(2-Bromomethyl-6-trifluoromethylpyridine-3-carbonyl)-5-chloro-2,2,6,6-tetramethylcyclohex-4-ene-1,3-dione | BrCC1=NC(=CC=C1C(=O)C=1C(C(C(C(C1Cl)(C)C)=O)(C)C)=O)C(F)(F)F | C18H16BrClF3NO3
